US05700824
Preparation of 5-(4-acetoxymethyl-3-chlorophenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole
To N,N-dimethylformamide (200 ml) are added 5-(4-bromomethyl-3-chlorophenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole (24.3 g) and potassium acetate (29.0 g), which are stirred at 130° C. for 3 hours. The reaction mixture is cooled to room temperature, poured into water and extracted with ethyl acetate. The organic layer is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography using mixed solvent of hexane-ethyl acetate as eluent to give 11.8 g of desired compound.

reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | 5-(4-bromomethyl-3-chlorophenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 24.3 g | BrCC1=C(C=C(C=C1)C1=NC(=NN1C)C1=C(C=CC=C1F)Cl)Cl | C16H11BrCl2FN3
reactant | potassium acetate | 29.0 g | C(C)(=O)[O-].[K+]
solvent | water | O | H2O
product | 5-(4-acetoxymethyl-3-chlorophenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 11.8 g | C(C)(=O)OCC1=C(C=C(C=C1)C1=NC(=NN1C)C1=C(C=CC=C1F)Cl)Cl | C18H14Cl2FN3O2
